US08013156B2
To a solution of 1-[3-(pyridin-4-ylmethoxy)-pyrazin-2-yl]-pyrrolidin-3-ylamine (50 mg, 0.18 mmole), triethylamine (excess eq.) in dichloromethane was added 1-isocyanato-3-trifluoromethyl-benzene (37 mg, 0.198 mmole). The mixture was stirred at room temperature for 1 hour. The mixture was then concentrated in vacuo, and purified by preparative HPLC to give N-(1-{3-[(pyridin-4-ylmethyl)oxy]pyrazin-2-yl}pyrrolidin-3-yl)-N′-[3-(trifluoro-methyl)phenyl]urea (13.2 mg, 12.5% yield). 1H NMR (DMSO-d6) 8.80 (m, 3H), 7.97 (s, 1H), 7.90 (d, 2H), 7.68 (d, 1H), 7.4 (m, 2H), 7.3 (d, 1H), 7.2 (m, 1H), 6.8 (d, 1H), 5.3 (s, 2H), 4.25 (m, H), 3.9 (m, 1H), 3.75 (m, 2H), 3.6 (m, 1H), 2.40 (m, 1H), 1.85 (m, 1H) ppm.

reactant | 1-[3-(pyridin-4-ylmethoxy)-pyrazin-2-yl]-pyrrolidin-3-ylamine | 0.18 mmole, 50 mg | N1=CC=C(C=C1)COC=1C(=NC=CN1)N1CC(CC1)N | C14H17N5O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 1-isocyanato-3-trifluoromethyl-benzene | 0.198 mmole, 37 mg | N(=C=O)C1=CC(=CC=C1)C(F)(F)F | C8H4F3NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(1-{3-[(pyridin-4-ylmethyl)oxy]pyrazin-2-yl}pyrrolidin-3-yl)-N′-[3-(trifluoro-methyl)phenyl]urea | 13.2 mg, 12.5% yield | N1=CC=C(C=C1)COC=1C(=NC=CN1)N1CC(CC1)NC(=O)NC1=CC(=CC=C1)C(F)(F)F | C22H21F3N6O2
